US08975400B2
4-(3-chlorophenoxy)-3,5-difluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4,5-trifluorobenzaldehyde and 3-chlorophenol.

reactant | 3,4,5-trifluorobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | 4-(3-chlorophenoxy)-3,5-difluorobenzaldehyde | ClC=1C=C(OC2=C(C=C(C=O)C=C2F)F)C=CC1 | C13H7ClF2O2
